US06559145B2
Ethyl 3-(2-chloro-5-iodo-3-pyridinyl)-2-hydrazono-3-oxopropanoate.
Triphenylphosphine(1.95 g) is added in one portion to a solution of ethyl 3-(2-chloro -5-iodo-3-pyridinyl)-2-diazo-3-oxopropanoate (Preparation 19, 2.57 g) in diisopropyl ether (25 mL) and chloroform (15 mL) at room temperature. The yellow solution is stirred under nitrogen for 18 h. The mixture is then treated with water (0.125 mL), heated to reflux for 2 h, and then stirred overnight at room temperature. The mixture is filtered, and the solids are washed with hexane and dried to give 1.83 g of the title compound. After concentration, the filtrate is purified by flash chromatography on silica gel eluted with 10% ethyl acetate/hexane to provide an additional 0.36 g to yield a combined total of 2.19 g (85%) of the title compound as a pale yellow solid. Physical characteristics: 1H NMR (300 MHz, CDCl3) δ 1.39, 1.63, 4.38, 7.94, 8.63; IR (drift) 3378, 3182, 1675, 1651, 1568, 1564, 1483, 1324, 1303, 1286, 1199, 923, 770, 664, 620 cm−1; MS (ESI+) m/z 382 (M+H)+. Anal. Found: C, 31.78; H, 2.43; N, 10.91; Cl, 9.63.

reactant | Triphenylphosphine | 1.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-(2-chloro -5-iodo-3-pyridinyl)-2-diazo-3-oxopropanoate | 2.57 g | ClC1=NC=C(C=C1C(C(C(=O)OCC)=[N+]=[N-])=O)I | C10H7ClIN3O3
reactant | water | 0.125 mL | O | H2O
solvent | diisopropyl ether | 25 mL | C(C)(C)OC(C)C | C6H14O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-(2-chloro-5-iodo-3-pyridinyl)-2-hydrazono-3-oxopropanoate | 1.83 g | ClC1=NC=C(C=C1C(C(C(=O)OCC)=NN)=O)I | C10H9ClIN3O3
